US07547691B2
(B). Preparation of benzo[b]thiophen-6-ylcarbamic acid tert-butyl ester
A mixture of benzo[b]thiophen-6-ylamine (1.33 g, 8.93 mmol), di-tert-butyldicarbonate (2.65 g, 12.1 mmol) and dimethylaminopyridine (0.35 g, 2.8 mmol) in THF (80 mL) is stirred for 20 hours. Solvent is evaporated and the residue is chromatographed on silica gel, eluting with EtOAc in hexanes 0-40%, to give the title compound as a brown oil (1.51 g, 68% yield).

reactant | benzo[b]thiophen-6-ylamine | 8.93 mmol, 1.33 g | S1C2=C(C=C1)C=CC(=C2)N | C8H7NS
reactant | di-tert-butyldicarbonate | 12.1 mmol, 2.65 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 2.8 mmol, 0.35 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | benzo[b]thiophen-6-ylcarbamic acid tert-butyl ester | 1.51 g, 68% yield | C(C)(C)(C)OC(NC=1C=CC2=C(SC=C2)C1)=O | C13H15NO2S
